US07282605B2
(R)-N-Octanoyl-1-phenylethylamine
Octanoic anhydride (5.58 g, 20.6 mmol) was added dropwise to a solution of 2.75 g (22.7 mmol) of (R)-1-phenylethylamine and 2.09 g (20.6 mmol) of triethylamine in 35 ml of toluene at room temperature. The reaction was allowed to proceed for 18 hours and then the reaction was terminated by addition of 20 ml of 10% hydrochloric acid. The toluene phase was separated, washed with two 30-ml portions of 10% sodium hydroxide and dried over anhydrous sodium sulfate. After removal of the solvent by distillation, the residue was quantitated by HPLC. Thus was obtained 4.55 g (89%) of the title compound.

reactant | Octanoic anhydride | 20.6 mmol, 5.58 g | C(CCCCCCC)(=O)OC(CCCCCCC)=O | C16H30O3
reactant | (R)-1-phenylethylamine | 22.7 mmol, 2.75 g | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
reactant | triethylamine | 20.6 mmol, 2.09 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
product | (R)-N-Octanoyl-1-phenylethylamine | 4.55 g, 89% | C(CCCCCCC)(=O)N[C@H](C)C1=CC=CC=C1 | C16H25NO
